US04595677
370 mg of Z-Sta-OH, 225 mg of H-β-Ala-His-NH2, 153 mg of HOBt×H2O and 247 mg of DCCI are suspended in 4.5 ml of DMF and stirred at room temperature. After approximately 10 minutes a clear solution has formed and afrer approximately 20 minutes DCH begins to crystallize out. The mixture is left to stand overnight, then stirred for 30 minutes at 0°, DCH is filtered off und the filtrate is concentrated to an oil. This is heated for 1 hour at 60° in 14 ml of methanol/glacial acetic acid/H2O (94:3:3), the solution is concentrated to 3 ml and the crude product is precipitated by 30 ml of diisopropyl ether and dried. To remove the acetic acid, the residue is dissolved in n-butanol, washed in succession with 5% strength NaHCO3 solution and with water, and the butanol phase is again concentrated to dryness. After purification by chromatography over 30 g of silica gel (Merck No. 60, 230-400 mesh) using as eluant chloroform/methanol (75:25), Z-Sta-β-Ala-His-NH3 is obtained; Rf (G)=0.28.

reactant | Z-Sta-OH | 370 mg | N([C@@H](CC(C)C)[C@@H](O)CC(=O)O)C(=O)OCC1=CC=CC=C1 | C16H23NO5
reactant | H-β-Ala-His-NH2 | 225 mg | NCCC(=O)N[C@@H](CC1=CNC=N1)C(=O)N | C9H15N5O2
reactant | HOBt | 153 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCCI | 247 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 4.5 ml | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | Z-Sta-β-Ala-His NH3 | N([C@@H](CC(C)C)[C@@H](O)CC(=O)NCCC(=O)N[C@@H](CC1=CNC=N1)C(=O)O)C(=O)OCC1=CC=CC=C1.N | InChI=1S/C25H35N5O7.H3N/c1-16(2)10-19(30-25(36)37-14-17-6-4-3-5-7-17)21(31)12-23(33)27-9-8-22(32)29-20(24(34)35)11-18-13-26-15-28-18;/h3-7,13,15-16,19-21,31H,8-12,14H2,1-2H3,(H,26,28)(H,27,33)(H,29,32)(H,30,36)(H,34,35);1H3/t19-,20-,21-;/m0./s1
